US08835418B2
7.1. tert-Butyl 4-[(4-chlorobenzenesulphonylamino)methyl]piperidine-1-carboxylate
A solution of 0.844 g (4 mmol) of 4-chlorobenzenesulphonyl chloride in 5 ml of dichloromethane is added dropwise to a solution of 0.857 g (4 mmol) of tert-butyl 4-(aminomethyl)piperidine-1-carboxylate, 0.99 ml (6 mmol) of diisopropylethylamine and 0.024 g (0.2 mmol) of 4-dimethylaminopyridine in 9 ml of dichloromethane. The mixture is stirred at ambient temperature overnight. The organic phase is washed with 10 ml of water and then 4 ml of a 1N aqueous hydrochloric acid solution, 2 times 14 ml of water, 2 times 14 ml of a 1N aqueous sodium hydroxide solution, 3 times 14 ml of water and 14 ml of a saturated aqueous sodium chloride solution. It is dried over sodium sulphate and evaporated to dryness in order to obtain 1.371 g (3.52 mmol) of product in the form of an orange paste used as is in the following stage.

reactant | 4-chlorobenzenesulphonyl chloride | 4 mmol, 0.844 g | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
reactant | tert-butyl 4-(aminomethyl)piperidine-1-carboxylate | 4 mmol, 0.857 g | NCC1CCN(CC1)C(=O)OC(C)(C)C | C11H22N2O2
reactant | diisopropylethylamine | 6 mmol, 0.99 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.2 mmol, 0.024 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 9 ml | ClCCl | CH2Cl2
product | tert-Butyl 4-[(4-chlorobenzenesulphonylamino)methyl]piperidine-1-carboxylate | 3.52 mmol, 1.371 g | ClC1=CC=C(C=C1)S(=O)(=O)NCC1CCN(CC1)C(=O)OC(C)(C)C | C17H25ClN2O4S
